US08084448B2
F. [4-(2-Cyano-3-hydroxyphenoxy)-butyl]-carbamic Acid Tert-butyl Ester
The title compound is prepared from 2,6-dihydroxybenzonitrile and 4-(Boc-amino)-1-butanol analogous to Example 110, step A.

reactant | 2,6-dihydroxybenzonitrile | OC1=C(C#N)C(=CC=C1)O | C7H5NO2
reactant | 4-(Boc-amino)-1-butanol | C(=O)(OC(C)(C)C)NCCCCO | C9H19NO3
product | [4-(2-Cyano-3-hydroxyphenoxy)-butyl]-carbamic Acid Tert-butyl Ester | C(C)(C)(C)OC(NCCCCOC1=C(C(=CC=C1)O)C#N)=O | C16H22N2O4
